US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-{[4-(1-methylethyl)-1-piperazinyl]methyl}-3-biphenylyl)methyl]-1,3-benzenedicarboxamide
N-{[3′-(Chloromethyl)-6-fluoro-3-biphenylyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (0.034 g, 0.05 mmol) and 1-(1-methylethyl)piperazine (0.0325 g, 0.25 mmol) were combined in THF (1 mL) and microwaved at 150° C. for 1 h. The mixture was purified using a Gilson HPLC with a TFA system followed by passing product though a quaternary ammonium hydroxide cartridge to give the free base, the title compound, as a white solid. LC-MS m/z 774.8 (M+H)+, 1.46 min (ret time); mp 165-169° C. Analytical HPLC shows 100% purity, (ret time 10.233 min).

reactant | N-{[3′-(Chloromethyl)-6-fluoro-3-biphenylyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.05 mmol, 0.034 g | ClCC=1C=C(C=CC1)C1=CC(=CC=C1F)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C38H40ClFN6O3
reactant | 1-(1-methylethyl)piperazine | 0.25 mmol, 0.0325 g | CC(C)N1CCNCC1 | C7H16N2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-{[4-(1-methylethyl)-1-piperazinyl]methyl}-3-biphenylyl)methyl]-1,3-benzenedicarboxamide | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2CCN(CC2)C(C)C)CC | C45H55FN8O3
